US09260427B2
Prepared using General Procedure 10. A solution of 2-(4-bromophenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)acetate (900 mg, 2.2 mmol), KOAc (650 mg, 6.6 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (670 mg, 2.6 mmol) in DMSO (10 mL) at 40° C. was de-gassed. PdCl2dppf (80 mg, 0.11 mmol) was added and the mixture was heated at 100° C. for 3 h. The reaction mixture was purified by chromatography (EA/hexane with 1% TEA) to provide 491 mg (41%) of methyl 2-(5-(tert-butyl)thiophene-2-carboxamido)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate. LCMS-ESI (m/z) calculated for C24H32BNO5S: 457.4. found 458.0 [M+H]+, tR=2.89 min (Method 8).

reactant | 2-(4-bromophenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)acetate | 2.2 mmol, 900 mg | BrC1=CC=C(C=C1)C(C(=O)[O-])NC(=O)C=1SC(=CC1)C(C)(C)C
reactant | KOAc | 6.6 mmol, 650 mg | CC(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.6 mmol, 670 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | methyl 2-(5-(tert-butyl)thiophene-2-carboxamido)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 491 mg, 41% | C(C)(C)(C)C1=CC=C(S1)C(=O)NC(C(=O)OC)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H32BNO5S
